* C:\Users\Pablo\LTspice\Pre-amp.asc
XU6 N006 N004 V+ V- N007 LT1028
XU7 N008 N001 V+ V- N005 LT1028
R1 N007 N004 19.7k
R2 N004 N015 1.5K
C1 N007 N004 418p
C2 0 N015 4.7µ
XU2 IN N003 V+ V- N006 LT1028
R3 N006 N003 19.7k tol=5 pwr=0.25
R4 N003 N014 1.5K tol=5 pwr=0.25
C3 N006 N003 418p
C4 0 N014 4.7µ
R5 N008 N007 1k
R6 N005 N001 1k
R7 N010 N016 1k
C5 0 N016 18n
R8 N008 N010 1k
R9 N010 N001 1k
XU3 N009 N002 V+ V- OUT LT1028
R10 N009 N005 1k
R11 OUT N002 1k
R13 N009 N011 1k
R14 N011 N002 1k
XU1 N012 N013 V+ V- N013 LT1028
C6 N012 N011 12n
R12 N012 0 100k
R15 N013 N012 1k
V1 IN 0 AC 2.5mV
V2 V+ 0 10
V3 0 V- 10
R16 OUT 0 47k
;tran 10ms
.ac dec 100 20 20k
.lib LTC.lib
.backanno
.end
